US07566712B2
Reflux a mixture of malonic acid diethyl ester (7.96 g, 50 mmol), 2-methoxy-acetamidine hydrochloride (6.2 g, 50 mmol), and NaOMe MeOH solution (4.37 M, 22.7 mL, 100 mmol) in MeOH (30 mL) for 24 hours. Concentrate, dilute with H2O (50 mL), wash with EtOAc, and concentrate the aqueous layer. Extract with MeOH and concentrate to yield 2-methoxymethyl-pyrimidine-4,6-diol.

reactant | malonic acid diethyl ester | 50 mmol, 7.96 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | 2-methoxy-acetamidine hydrochloride | 50 mmol, 6.2 g | Cl.COCC(=N)N
reactant | NaOMe MeOH | 100 mmol, 4.37 M, 22.7 mL | C[O-].[Na+].CO
solvent | MeOH | 30 mL | CO | CH4O
product | 2-methoxymethyl-pyrimidine-4,6-diol | COCC1=NC(=CC(=N1)O)O | C6H8N2O3
